US08633173B2
[5-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-(4-morpholin-4-yl-phenyl)-amine
[5-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-(4-morpholin-4-yl-phenyl)-amine was prepared from 5-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (100.0 mg, 0.3468 mmol) and 4-(4-bromo-phenyl)-morpholine (101.0 mg, 0.4172 mmol) in a manner analogous to Step 2d. The title compound was isolated as a yellow solid (0.018 g, 12%). MP=247-249° C. 1H NMR (400 MHz, CDCl3, δ, ppm): 8.28-8.24 (m, 2H), 8.15-8.11 (m, 2H), 7.55-7.51 (m, 2H), 7.49-7.44 (m, 2H), 7.04-7.01 (m, 1H), 6.96-6.91 (m, 2H), 6.68 (s, 1H), 3.90-3.85 (m, 4H), 3.15 (s, 3H), 3.14-3.10 (m, 4H). MS=450 (MH)+.

reactant | 5-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 0.3468 mmol, 100.0 mg | CS(=O)(=O)C1=CC=C(C=C1)C1=CC=CC=2N1N=C(N2)N | C13H12N4O2S
reactant | 4-(4-bromo-phenyl)-morpholine | 0.4172 mmol, 101.0 mg | BrC1=CC=C(C=C1)N1CCOCC1 | C10H12BrNO
product | [5-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-(4-morpholin-4-yl-phenyl)-amine | CS(=O)(=O)C1=CC=C(C=C1)C1=CC=CC=2N1N=C(N2)NC2=CC=C(C=C2)N2CCOCC2 | C23H23N5O3S
